US09403846B2
Step 1. Synthesis of 2-cyclopropyl-N-methoxy-N-methylacetamide (C63)
To a solution of 2-cyclopropylacetic acid (C62) (30 g, 300 mmol) in dichloromethane (800 mL) was added 1,1′-carbonyldiimidazole (54 g, 333 mmol) portion-wise, not allowing the temperature to exceed 25° C. The mixture was stirred at room temperature for 2 hours. N,O-Dimethylhydroxylamine hydrochloride (30 g, 308 mmol) was added in one portion and stirred at room temperature for 18 hours. The mixture was washed with water (2×200 mL) and saturated aqueous sodium chloride solution (100 mL), dried over sodium sulfate and concentrated to give crude product as a yellow oil, which was directly used in the next step. Yield: 48 g, 336 mmol, 112%. 1H NMR (400 MHz, CDCl3) δ 3.62 (s, 3H), 3.12 (s, 3H), 2.30 (d, J=7.2 Hz, 2H), 1.03-1.06 (m, 1H), 0.48-0.52 (m, 2H), 0.11-0.13 (m, 2H).

reactant | 2-cyclopropylacetic acid | 300 mmol, 30 g | C1(CC1)CC(=O)O | C5H8O2
reactant | 1,1′-carbonyldiimidazole | 333 mmol, 54 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,O-Dimethylhydroxylamine hydrochloride | 308 mmol, 30 g | Cl.CNOC
solvent | dichloromethane | 800 mL | ClCCl | CH2Cl2
product | 2-cyclopropyl-N-methoxy-N-methylacetamide | C1(CC1)CC(=O)N(C)OC | C7H13NO2
